US08461328B2
To a stirred solution of racemic trans 3-(6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentylamine (120 mg, 0.49 mmol) in DMF (3 mL), 3,3,3-trifluoropropionic acid (53.0 μL, 0.60 mmol), DMAP (103 mg, 0.84 mmol), HOBt (100 mg, 0.74 mmol) and EDCI (161 mg, 0.84 mmol) were added. Stirring was continued for 18 hours at ambient temperature. The mixture was diluted with water and purified by column chromatography (SCX-2, gradient: methanol to 2M NH3 in methanol). The isolated product was triturated (DCM), washed with water and dried in vacuo at 40° C. for 18 hours affording 79.8 mg (45%) of racemic trans 3,3,3-trifluoro-N-[3-(6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentyl]-propionamide as a grey powder. LCMS (Method A, ESI): RT=3.14 min, m+H=353.3; 1H NMR (400 MHz, DMSO) δ: 12.37 (s, 1H), 9.00 (s, 1H), 8.53 (d, 1H), 7.61 (t, 1H), 7.00 (dd, 1H), 5.67 (m, 1H), 4.48 (m, 1H), 3.26 (q, 2H), 2.55 (m, 2H), 2.33-2.18 (m, 3H), 1.71 (m, 1H).

reactant | racemic trans 3-(6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentylamine | 0.49 mmol, 120 mg | N1(N=NC2=CN=C3NC=CC3=C12)[C@@H]1C[C@H](CC1)N | C12H14N6
reactant | 3,3,3-trifluoropropionic acid | 0.60 mmol, 53.0 μL | FC(CC(=O)O)(F)F | C3H3F3O2
reactant | HOBt | 0.74 mmol, 100 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.84 mmol, 161 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.84 mmol, 103 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
product | racemic trans 3,3,3-trifluoro-N-[3-(6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentyl]-propionamide | 79.8 mg, 45% | FC(CC(=O)N[C@@H]1C[C@H](CC1)N1N=NC2=CN=C3NC=CC3=C12)(F)F | C15H15F3N6O
